US09193689B2
To a solution of N,N-diethyl-2,3-dimethyl-benzamide (578 mg, 2.82 mmol) in anhydrous THF (3 mL) under N2 at −78° C. was added dropwise n-BuLi (2.5M in n-hexanes, 2.4 mL, 5.92 mmol) to give a deep red solution. The reaction mixture was stirred at −78° C. for 30 minutes. The reaction mixture was transferred dropwise, via syringe, to a reaction vessel containing 4-cyano-N-methyl-N-(1-methyl-piperidin-4-yl)-benzamide (725 mg, 2.82 mmol) in anhydrous THF (5 mL) at −78° C. and under N2. The reaction mixture was stirred at −78° C. for 3.5 h. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (10 mL) and CH2Cl2 (10 mL). The combined organic layers concentrated in vacuo and the resultant solid was triturated with 2:1 isohexane/EtOAc, filtered and dried in vacuo. The crude material was purified by silica gel column chromatography, eluting with CH2Cl2 and increasing the polarity to 15% MeOH/CH2Cl2 to afford N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-(1-methyl-piperidin-4-yl)-benzamide as a white solid (487 mg, 44%).

reactant | N,N-diethyl-2,3-dimethyl-benzamide | 2.82 mmol, 578 mg | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | n-BuLi | 5.92 mmol, 2.5M, 2.4 mL | [Li]CCCC
reactant | 4-cyano-N-methyl-N-(1-methyl-piperidin-4-yl)-benzamide | 2.82 mmol, 725 mg | C(#N)C1=CC=C(C(=O)N(C2CCN(CC2)C)C)C=C1 | C15H19N3O
reactant | Water | 10 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-(1-methyl-piperidin-4-yl)-benzamide | 487 mg, 44% | CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)C1CCN(CC1)C | C24H27N3O2
